US04354973
4-(Acetyloxy)-8-chloro-6-(2-chlorophenyl)-2H,4H-pyrrolo[3,4-d][2]benzazepine-2-carboxylic acid methyl ester
A mixture of 7.6 g (19 mmol) of 8-chloro-6-(2-chlorophenyl)-2H,4H-pyrrolo[3,4-d][2]benzazepine-2-carboxylic acid methyl ester 5-oxide and 200 ml of acetic anhydride was stirred at 70° for 12 hr and at 105° for 5 hr. The acetic anhydride solution was concentrated at reduced pressure. The residue was dissolved in methylene chloride and washed with saturated aqueous sodium bicarbonate and saturated aqueous sodium chloride. The methylene chloride solution was dried over anhydrous sodium sulfate and concentrated at reduced pressure to give an oil. Purification by column chromatography (50 g, neutral alumina; 5% ether in methylene chloride, eluent) gave a tan solid, mp 175°-177°. Recrystallization from ether gave an off-white solid, mp 177°-178°.

reactant | 8-chloro-6-(2-chlorophenyl)-2H,4H-pyrrolo[3,4-d][2]benzazepine-2-carboxylic acid methyl ester 5-oxide | 19 mmol, 7.6 g | COC(=O)N1C=C2C[N+](=C(C3=C(C2=C1)C=CC(=C3)Cl)C3=C(C=CC=C3)Cl)[O-] | C20H14Cl2N2O3
reactant | acetic anhydride | 200 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 4-(Acetyloxy)-8-chloro-6-(2-chlorophenyl)-2H,4H-pyrrolo[3,4-d][2]benzazepine-2-carboxylic acid methyl ester | COC(=O)N1C=C2C(N=C(C3=C(C2=C1)C=CC(=C3)Cl)C3=C(C=CC=C3)Cl)OC(C)=O | C22H16Cl2N2O4
